US04822787
A solution of (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carbamoylmethyloxymethyl)pyrrolidine (0.60 g) in a mixture of trifluoroacetic acid (3 ml) and anisole (0.6 ml) was stirred at ambient temperature for 1 hour. The mixture was concentrated under reduced pressure to give (2S,4R)-2-(carbamoylmethyloxymethyl)-4hydroxypyrrolidine. To a solution of the compound obtained above in a mixture of water (20 ml) and tetrahydrofuran (20 ml) was dropwise added a solution of 4-nitrobenzyloxycarbonyl chloride (0.50 g) in tetrahydrofuran (5 ml) under icecooling with stirring, keeping the pH between 8.5-9.5 with 1N aqueous sodium hydroxide. The mixture was stirred at the same condition for 1 hour and extracted with ethyl acetate (50 ml). The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (1:99 and then 2:98 V/V) to give (2S,4R)-2-(carbamoylmethyloxymethyl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.32 g).

reactant | (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carbamoylmethyloxymethyl)pyrrolidine | 0.60 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COCC(N)=O | C18H36N2O5Si
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.6 ml | C1(=CC=CC=C1)OC | C7H8O
product | (2S,4R)-2-(carbamoylmethyloxymethyl)-4hydroxypyrrolidine | C(N)(=O)COC[C@H]1NC[C@@H](C1)O | C7H14N2O3
